US06156700
Preparation of Methyl{{{5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}methyl}thio}acetate
A mixture of hexanes washed sodium hydride (0.0360 g of a 60% dispersion in oil, 0.900 mmol) in tetrahydrofuran is treated with methyl thioglycolate (90.0 mL, 1.00 mmol), stirred until gas evolution stops, treated dropwise with a solution of 3-[3-(bromomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (0.300 g, 0.710 mmol) in tetrahydrofuran, stirred for 10 minutes, and concentrated in vacuo to obtain a residue. The residue is diluted with methylene chloride and water. The organic phase is separated, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain an oil. Column chromatography of the oil using silica gel and a 5% diethyl ether in methylene chloride solution gives the title product as a clear oil which is identified by 1H NMR spectral analysis.

reactant | methyl thioglycolate | 1.00 mmol, 90.0 mL | C(CS)(=O)OC | C3H6O2S
reactant | 3-[3-(bromomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.710 mmol, 0.300 g | BrCC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C14H9BrF3N3O2S
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | Methyl{{{5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}methyl}thio}acetate | COC(CSCC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)=O | C17H14F3N3O4S2
